US08748469B2
5,6-Dihydrobenzo[f]imidazo[1,5-d][1,4]oxazepine
To a stirred solution of 2-(1-(2-hydroxyethyl)-1H-imidazol-5-yl)phenol (103.0 mg, 0.5 mmol) and PPh3 (157.0 mg, 0.6 mmol) in THF (4 mL) at 0° C., was added DEAD (0.22 mL, 40% solution in toluene, 0.75 mmol). The resulting yellow solution was allowed to warm to rt and stirred overnight. The solvent was removed under reduced pressure and the crude residue was purified by flash column chromatography on silica gel to afford the desired product in 84% yield. 1H NMR: 4.35-4.45 (m, 4H), 6.94-7.05 (m, 2H), 7.11-7.19 (m, 1H), 7.43 (d, 1H, J=0.8 Hz), 7.49 (s, 1H), 7.67 (dd, 1H, J=1.6, 8.0 Hz).

reactant | 2-(1-(2-hydroxyethyl)-1H-imidazol-5-yl)phenol | 0.5 mmol, 103.0 mg | OCCN1C=NC=C1C1=C(C=CC=C1)O | C11H12N2O2
reactant | PPh3 | 0.6 mmol, 157.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.75 mmol, 0.22 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5,6-Dihydrobenzo[f]imidazo[1,5-d][1,4]oxazepine | 84% yield | C=1N=CN2CCOC3=C(C21)C=CC=C3 | C11H10N2O
